* /Users/league/Desktop/Level-1/Lesson 7/Photosensor.asc
V1 N001 0 9
R1 N001 Vb 12k
R2 Vb 0 50k
R3 N002 VLED 162
Q1 N001 Vb N002 0 2N2222
D1 VLED 0 W5AP-LZMZ-5K8L
.model D D
.lib /Users/league/Library/Application Support/LTspice/lib/cmp/standard.dio
.model NPN NPN
.model PNP PNP
.lib /Users/league/Library/Application Support/LTspice/lib/cmp/standard.bjt
.lib LTSpice/WP710A10QBC.SP3
.tran 0 1ms 0ms 10us startup
.backanno
.end
